### PR TITLE
[Merged by Bors] - feat(Algebra/Algebra/Operations): add `Submodule.mul_eq_bot`

### PR DESCRIPTION
**Pull request by NoahW314**
Generalize `Ideal.mul_eq_bot` to work for submodules as well.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 1]
```diff
@@ -395,17 +395,11 @@ protected theorem pow_succ : I ^ (n + 1) = I * I ^ n := by
...
-@[simp]
-theorem mul_eq_bot [NoZeroDivisors R] : I * J = ⊥ ↔ I = ⊥ ∨ J = ⊥ :=
-  ⟨fun hij =>
-    or_iff_not_imp_left.mpr fun I_ne_bot =>
-      J.eq_bot_iff.mpr fun j hj =>
-        let ⟨i, hi, ne0⟩ := I.ne_bot_iff.mp I_ne_bot
-        Or.resolve_left (mul_eq_zero.mp ((I * J).eq_bot_iff.mp hij _ (mul_mem_mul hi hj))) ne0,
-    fun h => by obtain rfl | rfl := h; exacts [bot_mul _, mul_bot _]⟩
+@[deprecated (since := "2026-04-03")]
+alias mul_eq_bot := Submodule.mul_eq_bot
```
Comment (artie2000) [inline Mathlib/RingTheory/Ideal/Operations.lean]: If you like, you can keep this as a non-deprecated `theorem` whose proof is just `Submodule.mul_eq_bot`. I don't quite understand the convention, but a lot of the `Submodule` API is duplicated to `Ideal`.

**Review by artie2000 — APPROVED** [review]

**Comment by artie2000** [comment]
lgtm

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 2]
```diff
@@ -248,6 +248,16 @@ theorem mul_bot : M * ⊥ = ⊥ :=
...
+@[simp]
+theorem mul_eq_bot [NoZeroDivisors A] {M N : Submodule R A} :
+    M * N = ⊥ ↔ M = ⊥ ∨ N = ⊥ :=
+  ⟨fun hmn =>
+    or_iff_not_imp_left.mpr fun M_ne_bot =>
+      N.eq_bot_iff.mpr fun n hn =>
+        let ⟨m, hm, ne0⟩ := M.ne_bot_iff.mp M_ne_bot
+        Or.resolve_left (mul_eq_zero.mp ((M * N).eq_bot_iff.mp hmn _ (mul_mem_mul hm hn))) ne0,
+    fun h => by obtain rfl | rfl := h; exacts [bot_mul _, mul_bot _]⟩
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Operations.lean:260]: Could you add a `NoZeroDivisors (Submodule R A)` instance too using this result?

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 3]
```diff
@@ -395,14 +395,7 @@ protected theorem pow_succ : I ^ (n + 1) = I * I ^ n := by
...
-theorem mul_eq_bot [NoZeroDivisors R] : I * J = ⊥ ↔ I = ⊥ ∨ J = ⊥ :=
-  ⟨fun hij =>
-    or_iff_not_imp_left.mpr fun I_ne_bot =>
-      J.eq_bot_iff.mpr fun j hj =>
-        let ⟨i, hi, ne0⟩ := I.ne_bot_iff.mp I_ne_bot
-        Or.resolve_left (mul_eq_zero.mp ((I * J).eq_bot_iff.mp hij _ (mul_mem_mul hi hj))) ne0,
-    fun h => by obtain rfl | rfl := h; exacts [bot_mul _, mul_bot _]⟩
+theorem mul_eq_bot [NoZeroDivisors R] : I * J = ⊥ ↔ I = ⊥ ∨ J = ⊥ := Submodule.mul_eq_bot
 
 instance [NoZeroDivisors R] : NoZeroDivisors (Ideal R) where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Ideal/Operations.lean]: More precisely: let's move this instance too

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 4]
```diff
@@ -395,17 +395,7 @@ protected theorem pow_succ : I ^ (n + 1) = I * I ^ n := by
...
-  ⟨fun hij =>
-    or_iff_not_imp_left.mpr fun I_ne_bot =>
-      J.eq_bot_iff.mpr fun j hj =>
-        let ⟨i, hi, ne0⟩ := I.ne_bot_iff.mp I_ne_bot
-        Or.resolve_left (mul_eq_zero.mp ((I * J).eq_bot_iff.mp hij _ (mul_mem_mul hi hj))) ne0,
-    fun h => by obtain rfl | rfl := h; exacts [bot_mul _, mul_bot _]⟩
-
-instance [NoZeroDivisors R] : NoZeroDivisors (Ideal R) where
-  eq_zero_or_eq_zero_of_mul_eq_zero := mul_eq_bot.1
+theorem mul_eq_bot [NoZeroDivisors R] : I * J = ⊥ ↔ I = ⊥ ∨ J = ⊥ := Submodule.mul_eq_bot
```
Comment (themathqueen) [inline Mathlib/RingTheory/Ideal/Operations.lean:398]: deprecate?

Comment (eric-wieser) [reply Mathlib/RingTheory/Ideal/Operations.lean:398]: https://github.com/leanprover-community/mathlib4/pull/37626#discussion_r3035588202

File: Mathlib/RingTheory/Spectrum/Prime/Basic.lean [hunk 5]
```diff
@@ -486,7 +486,7 @@ theorem exists_primeSpectrum_prod_le_and_ne_bot_of_domain (h_fA : ¬IsField A) {
   obtain ⟨Wy, h_Wy_le, h_Wx_ne⟩ := hgt (M + span A {y}) (lt_add _ hy) (ne_bot_of_gt (lt_add _ hy))
   use Wx + Wy
   rw [Multiset.map_add, Multiset.prod_add]
-  refine ⟨le_trans (mul_le_mul' h_Wx_le h_Wy_le) ?_, mt Ideal.mul_eq_bot.mp ?_⟩
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Spectrum/Prime/Basic.lean:489]: I guess this change can now be reverted?

bors d+

Thanks!

File: Mathlib/RingTheory/Spectrum/Prime/Basic.lean [hunk 6]
```diff
@@ -486,7 +486,7 @@ theorem exists_primeSpectrum_prod_le_and_ne_bot_of_domain (h_fA : ¬IsField A) {
...
+  refine ⟨le_trans (mul_le_mul' h_Wx_le h_Wy_le) ?_, mt mul_eq_bot.mp ?_⟩
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Spectrum/Prime/Basic.lean]:
```suggestion
  refine ⟨le_trans (mul_le_mul' h_Wx_le h_Wy_le) ?_, mt Ideal.mul_eq_bot.mp ?_⟩
```

File: Mathlib/RingTheory/DedekindDomain/Different.lean [hunk 7]
```diff
@@ -751,7 +751,7 @@ theorem not_dvd_differentIdeal_of_intTrace_not_mem
     ¬ P ∣ differentIdeal A B := by
   by_cases hp : p = ⊥
   · subst hp
-    simp only [Ideal.map_bot, Ideal.mul_eq_bot] at hP
+    simp only [Ideal.map_bot, mul_eq_bot] at hP
```
Comment (eric-wieser) [inline Mathlib/RingTheory/DedekindDomain/Different.lean]:
```suggestion
    simp only [Ideal.map_bot, Ideal.mul_eq_bot] at hP
```

**Comment by eric-wieser** [comment]
bors merge
